US05834493
5-methoxy-3-[N-(2-(4-amino-phenyl)-ethyl)-1,2,5,6-tetrahydro-pyridin-3-ylmethyl]-1H-indole
Iron powder (0.97 g; 0.0174) was added to a suspension of the compound of Description 8 [5-methoxy-3-[N-(2-(4-nitro-phenyl)-ethyl)-1,2,5,6-tetrahydro-pyridin-3-ylmethyl]-1H-indole] (1.36 g; 0.0035 mol) in 10% aqueous hydrochloric acid (70 ml). The reaction mixture was refluxed for 3 hours. The reaction mixture was then cool down to room temperature and quenched with a saturated solution of aqueous sodium carbonate. The resulting mixture was filtered through diatomaceous earth (Celite(R)), washed with water and extracted with methylene chloride. The organic extract was dried (MgSO4) and evaporated under vacuum. After purification by Flash Chromatography on silica gel using as eluent methylene chloride/methanol/ammonia (95/5/0.5), the title compound was obtained as a yellow solid (0.2 g).

reactant | 5-methoxy-3-[N-(2-(4-nitro-phenyl)-ethyl)-1,2,5,6-tetrahydro-pyridin-3-ylmethyl]-1H-indole | COC=1C=C2C(=CNC2=CC1)CC=1CN(CCC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C23H25N3O3
solvent | hydrochloric acid | 70 ml | Cl | ClH
catalyst | Iron | 0.97 g | [Fe] | Fe
product | 5-methoxy-3-[N-(2-(4-amino-phenyl)-ethyl)-1,2,5,6-tetrahydro-pyridin-3-ylmethyl]-1H-indole | COC=1C=C2C(=CNC2=CC1)CC=1CN(CCC1)CCC1=CC=C(C=C1)N | C23H27N3O
